US04254119
To a solution of 7β-[2-(2-carbobenzoxyamino-5-chloro-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid diphenylmethyl ester (216 mg) in anisole (5 ml) is added aluminium chloride (400 mg) under ice-cooling, and the mixture is stirred for 90 minutes at 10° C. The reaction mixture is adjusted to pH 8-9 with 5% aqueous sodium hydrogen carbonate solution, and filtered to remove separated solid. The filtrate is washed with ethyl acetate, acidified with 10% hydrochloric acid to pH 2 and extracted with methyl ethyl ketone. The extract solution is washed with saline, dried over sodium sulfate and concentrated. The obtained residue is solidified with ether, collected by filtration, and washed with ether to give 7β-[2-(2-amino-5-chloro-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (93 mg). Yield: 74%.

reactant | 7β-[2-(2-carbobenzoxyamino-5-chloro-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid diphenylmethyl ester | 216 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(C(=NOC)C=2N=C(SC2Cl)NC(=O)OCC2=CC=CC=C2)=O)=O | C34H28ClN5O7S2
reactant | aluminium chloride | 400 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[2-(2-amino-5-chloro-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 93 mg, Yield: 74% | NC=1SC(=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC)Cl | C13H12ClN5O5S2
